US04490292
The solution of 2-(2,4-dichlorophenylmethylidene)-4-(2-dimethylaminoethyl)-2H-1,4-benzothiazine-3(4H)-one hydrochloride (1 g) in 10 ml of chloroform was cooled below 0° C. and added with trimethylchlorosilane (2 ml), and then added with 30% hydrogen peroxide (0.29 g) for 30 minutes. The solution was stirred for 30 minutes below 0° C., and added with 1 ml of water. After further stirring for 1 hour at room temperature, 10 ml of water was added to the reaction mixture. The aqueous phase of the mixture was adjusted to a pH within 8-9 and the chloroform layer was separated from the mixture. The remaining aqueous phase was extracted with 10 ml of chloroform. The chloroform solutions wee combined, dried and evaporated under reduced pressure. The oily residue was purified by silicagel chromatography to give 2-(2,4-dichlorophenyl)-5-(2-dimethylaminoethyl)-2,3-dihydro-1,5-benzothiazepine-3,4(5H)-dione (1.0 g) as oil.

reactant | 2-(2,4-dichlorophenylmethylidene)-4-(2-dimethylaminoethyl)-2H-1,4-benzothiazine-3(4H)-one hydrochloride | 1 g | Cl.ClC1=C(C=CC(=C1)Cl)C=C1SC2=C(N(C1=O)CCN(C)C)C=CC=C2
reactant | trimethylchlorosilane | 2 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | hydrogen peroxide | 0.29 g | OO | H2O2
reactant | water | 1 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,4-dichlorophenyl)-5-(2-dimethylaminoethyl)-2,3-dihydro-1,5-benzothiazepine-3,4(5H)-dione | 1.0 g | ClC1=C(C=CC(=C1)Cl)C1SC2=C(N(C(C1=O)=O)CCN(C)C)C=CC=C2 | C19H18Cl2N2O2S
